US05262568
A mixture of m-ethylphenyl-N-methylcyanamide (520 mg, 3.25 mmol) and 1-aminonaphthalene hydrochloride (508 mg, 3.25 mmol) was placed in a preheated oil bath at 160° C. for 3 hours and then allowed to cool to room temperature. The resulting solid was taken into dichloromethane and washed with 10% NAOH solution. The organic layer was concentrated and the resulting residue was dissolved in abs. ETOH (2 ml) and treated with dil. HCl. It was concentrated and the solid was twice recrystallized from abs. EtOH-Et2O to give N-(1-naphthyl)-N'-(m-ethylphenyl)-N'-methylguanidine hydrochloride (403 mg, 37%) as off-white needles. mp 223°-25° C.

reactant | m-ethylphenyl-N-methylcyanamide | 3.25 mmol, 520 mg | C(C)C=1C=C(C=CC1)N(C#N)C | C10H12N2
reactant | 1-aminonaphthalene hydrochloride | 3.25 mmol, 508 mg | Cl.NC1=CC=CC2=CC=CC=C12
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(1-naphthyl)-N'-(m-ethylphenyl)-N'-methylguanidine hydrochloride | 403 mg, 37% | Cl.C1(=CC=CC2=CC=CC=C12)NC(=N)N(C)C1=CC(=CC=C1)CC | InChI=1S/C20H21N3.ClH/c1-3-15-8-6-11-17(14-15)23(2)20(21)22-19-13-7-10-16-9-4-5-12-18(16)19;/h4-14H,3H2,1-2H3,(H2,21,22);1H
